US04665070
(iii) Preparation of 4-ethyl-anthranilic acid
In a 500 ml flask, was placed 16.84 gm of 6-ethyl isatin which was covered with 216 ml of 1.5M sodium hydroxide solution. With stirring, the mixture was warmed to 50° C. Heating was discontinued and the solution was treated with a 30% solution of hydrogen peroxide (24 ml) which was added at such a rate to maintain the temperature at between 50° to 65° C. The mixture was left to slowly cool to room temperature and was then acidified to pH 4 with concentrated hydrochloric acid. The precipitated product was then collected by filtration: mp. 117°-120° C.; yield 8.93 gm.

reactant | 6-ethyl isatin | 16.84 gm | C(C)C1=CC=C2C(C(NC2=C1)=O)=O | C10H9NO2
reactant | sodium hydroxide | 1.5M, 216 ml | [OH-].[Na+]
reactant | hydrogen peroxide | 24 ml | OO | H2O2
reactant | hydrochloric acid | Cl | ClH
product | 4-ethyl-anthranilic acid | C(C)C=1C=C(C(C(=O)O)=CC1)N | C9H11NO2
